US07452911B2
3.60c ethyl 3-bromo-5,6,8,9-tetrahydro-10-thia-7-aza-benzo[a]azulen-7-carboxylate
A solution of 44.3 g (119 mmol) ethyl 4-(4-bromo-phenylsulphanyl)-5-oxo-azepan-1-carboxylate in 443 g polyphosphoric acid is heated to 80° C. for 45 min and then diluted with 1000 mL water. The aqueous phase is extracted three times with chloroform. The organic phase is washed with water, dried over Na2SO4 and the solvent is eliminated i.vac. The purification is carried out by repeated column chromatography on silica gel (chloroform/EtOAc 19:1) and by recrystallisation from MeOH/acetone.

reactant | ethyl 4-(4-bromo-phenylsulphanyl)-5-oxo-azepan-1-carboxylate | 119 mmol, 44.3 g | BrC1=CC=C(C=C1)SC1CCN(CCC1=O)C(=O)OCC | C15H18BrNO3S
solvent | water | 1000 mL | O | H2O
product | ethyl 3-bromo-5,6,8,9-tetrahydro-10-thia-7-aza-benzo[a]azulen-7-carboxylate | BrC=1C=CC2=C(C=3CCN(CCC3S2)C(=O)OCC)C1 | C15H16BrNO2S
